US08217031B2
7-Ethoxycarbonyl-5,6,7,8-tetrahydrofuro[2,3-c]azepin-4-one
3-[(Furan-2-ylmethyl)(ethoxycarbonyl)amino]propionic acid (3.6 g) prepared in the step 4 was dissolved in 300 mL of methylene chloride, then 2.66 g of thionyl chloride and 5 drops of DMF were added thereto and the mixture was heated to reflux for 3 hours. The reaction solution was cooled, 20.0 g of aluminum chloride was added thereto and the mixture was heated to reflux again for 30 minutes. The reaction solution was poured over 300 mL of ice water, the organic layer was separated, washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated in vacuo therefrom. The residue was purified by silica gel column chromatography to give 1.38 g of the objective compound as yellow liquid.

reactant | 3-[(Furan-2-ylmethyl)(ethoxycarbonyl)amino]propionic acid | 3.6 g | O1C(=CC=C1)CN(CCC(=O)O)C(=O)OCC | C11H15NO5
reactant | thionyl chloride | 2.66 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 20.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 7-Ethoxycarbonyl-5,6,7,8-tetrahydrofuro[2,3-c]azepin-4-one | 1.38 g | C(C)OC(=O)N1CC2=C(C(CC1)=O)C=CO2 | C11H13NO4
